US04673746
2,6-dimethoxytoluene (20.0 g) and o-fluorobenzoyl chloride (19.8 g) are dissolved in 250 ml of dichloroethane and chilled to 5° C. AlCl3 is added portionwise and when the addition is complete the reaction mixture is allowed to warm to room temperature over 30 minutes, then refluxed 30 minutes. It is then poured into 5% HCl and allowed to stand undisturbed 18 hours. Extraction with ether, followed by drying and concentration, gives crystalline material that is washed with hexane to give 2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone, mp 118°-120° C.

reactant | 2,6-dimethoxytoluene | 20.0 g | COC1=C(C(=CC=C1)OC)C | C9H12O2
reactant | o-fluorobenzoyl chloride | 19.8 g | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | AlCl3 | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | dichloroethane | 250 ml | ClC(C)Cl | C2H4Cl2
product | 2'-fluoro-2-hydroxy-4-methoxy-3-methylbenzophenone | FC1=C(C=CC=C1)C(C1=C(C(=C(C=C1)OC)C)O)=O | C15H13FO3
